US06600032B1
2-[2-(diethylamino)ethoxy] ethanol
2-(2-aminoethoxy)ethanol (Aldrich 0.5 mmol) is treated with NaBH3CN (Aldrich, 200 mg, 3.0 mmol) in 50% aqueous methanol (30 mL). To this solution, acetaldehyde 95% purity (2 mL, 17 mmol) is added in one portion and the mixture is heated at 50° C. for 2 days in a flask under argon. After removal of the solvent under reduced pressure, the residue is dissolved in water, extracted with ethylacetate to give the title compound.

reactant | 2-(2-aminoethoxy)ethanol | 0.5 mmol | NCCOCCO | C4H11NO2
reactant | NaBH3CN | 3.0 mmol, 200 mg | [BH3-]C#N.[Na+]
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | methanol | 30 mL | CO | CH4O
product | 2-[2-(diethylamino)ethoxy] ethanol | C(C)N(CCOCCO)CC | C8H19NO2
